US05849929
1.5 g (0.01 mole) of 2,2,4,5,5-pentamethyl-3-imidazoline-1-oxyl prepared as described in either of Examples 4 and 5 was solved in 10 ml methanol and treated with 1.5 ml (0.03 mole) of hydrazine or hydrazine-hydrate at ambient temperature. This solution was stored for 12 hours and over this period the methanol evaporated and the color of the solution disappeared. The partly crystallized residue was stirred with acetone and the colorless crystals were filtered and rinsed with acetone. 1.32 g of the isolated crystals with a yield of 88% were crystallized from ethyl acetate producing 1-hydroxy-2,2,4,5,5-pentamethyl-3-imidazoline having a melting point of 127°-128° C.

reactant | 2,2,4,5,5-pentamethyl-3-imidazoline-1-oxyl | 0.01 mole, 1.5 g | CC1=NC([N+](=O)C1(C)C)(C)C
reactant | hydrazine | 0.03 mole, 1.5 ml | NN | H4N2
reactant | hydrazine-hydrate | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | 1-hydroxy-2,2,4,5,5-pentamethyl-3-imidazoline | ON1C(N=C(C1(C)C)C)(C)C | C8H16N2O
